US06498176B1
A solution of 3,3,5-tribromooxindole (5.0 g, 13.4 mmol) in fresh THF (100 mL) is stirred at room temperature and a saturated aqueous solution of ammonium chloride (100 mL) is added. The flask is placed in a water bath and activated zinc dust (15.0 g, 230 mmol) is added. The mixture is stirred for 20 min and the zinc is removed by filtration through a pad of diatomaceous earth. The organic layer is separated and the aqueous layer is extracted with THF (20 mL). The combined organic layers were washed with saturated brine solution, dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure. The brown residue is triturated with water (20 mL) and the tan solid is collected by filtration and dried under vacuum to give 5-bromo-7-azaoxindole as a tan solid, 2.02 g (71%). 1H NMR (DMSO-d6) δ 11.13 (s, 1H), 8.15 (s, 1H), 8.76 (s, 1H), 3.57 (s, 2H). MS (AP −ve) 211 (100) (M−H).

reactant | 3,3,5-tribromooxindole | 13.4 mmol, 5.0 g | BrC1(C(NC2=CC=C(C=C12)Br)=O)Br | C8H4Br3NO
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | zinc | 230 mmol, 15.0 g | [Zn] | Zn
product | 5-bromo-7-azaoxindole | BrC=1C=C2CC(NC2=NC1)=O | C7H5BrN2O
